* C:\Documents and Settings\Alumnos\Escritorio\tpadc.asc
XU1 N006 N002 vcc+ vcc- N002 TL081
XU2 N007 N003 vcc+ vcc- N003 TL081
C1 N006 vin 470n
R1 N006 0 845k
R2 N007 0 845k
C2 N007 N002 470n
C3 N004 N003 220n
C4 N005 N004 220n
R3 N009 N003 14.3K
R4 N005 N009 14.3K
R5 N004 N008 7.15K
C5 N008 N009 440n
XU3 N005 N001 vcc+ vcc- N001 TL081
XU4 N010 N008 vcc+ vcc- N008 TL081
R6 vout N001 5.11k
C6 vout 0 390n
R7 N001 N010 1k
R8 N010 0 19k
V1 vcc+ 0 5
V2 0 vcc- 5
V3 vin 0 AC 1
.inc "C:\Documents and Settings\Alumnos\Escritorio\TL081.301"
.ac dec 10000 0.01 1000
.backanno
.end
